US04423047
2-(4-Chlorophenoxymethyl)thio-5-chloropyrimidine
A mixture of p-chlorophenoxymethyl chloride (6 mmol) and the potassium salt of 5-chloropyrimidine-2-thione (5 mmol) in 1,2-dimethoxyethane (25 ml) was stirred at room temperature for 10 h, the solvent distilled off at reduced pressure, the residue extracted with chloroform (70 ml), the chloroform (70 ml), the chloroform solution washed with 1 M NaOH (2×10 ml) and water (10 ml), and the dried (MgSO4) solution evaporated. The residual sulfide was recrystallized from iPrOH; yield 70%, m.p. 120° C. 1H NMR (DMSO-d6): δ5.90 (SCH2), 6.98 and 7.31 (Ph), 8.78 (H-4, H-6).

reactant | p-chlorophenoxymethyl chloride | 6 mmol | ClC1=CC=C(OCCl)C=C1 | C7H6Cl2O
reactant | potassium | [K] | K
reactant | 5-chloropyrimidine-2-thione | 5 mmol | ClC=1C=NC(NC1)=S | C4H3ClN2S
solvent | 1,2-dimethoxyethane | 25 ml | COCCOC | C4H10O2
product | 2-(4-Chlorophenoxymethyl)thio-5-chloropyrimidine | yield 70% | ClC1=CC=C(OCSC2=NC=C(C=N2)Cl)C=C1 | C11H8Cl2N2OS
